US07851634B2
39 2-Iodo-5-methoxy-4-(4-methoxy-butyl)-pyridine
2 mmol of 2,6-diiodo-3-methoxy-4-(4-methoxy-butyl)-pyridine are added to a solution of 4 mmol n-butyllithium in 1.6 ml hexane and 10 ml tetrahydrofuran at −78° C. under an argon atmosphere. The reaction mixture is stirred at −78° C. for 15 minutes. 2 mmol of water are introduced and the reaction mixture is warmed to room temperature. 10% Aqueous ammonium chloride solution is added to the mixture followed by extraction with tert-butyl methyl ether (3×). The combined organic layers are dried over sodium sulphate, filtered and concentrated. The title compound is obtained from the residue by means of flash chromatography (SiO2 60 F) and identified based on its Rf value.

reactant | 2,6-diiodo-3-methoxy-4-(4-methoxy-butyl)-pyridine | 2 mmol | IC1=NC(=CC(=C1OC)CCCCOC)I | C11H15I2NO2
reactant | n-butyllithium | 4 mmol | C(CCC)[Li]
reactant | water | 2 mmol | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 1.6 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Iodo-5-methoxy-4-(4-methoxy-butyl)-pyridine | IC1=NC=C(C(=C1)CCCCOC)OC | C11H16INO2
